2176-01-06 06:57:00 Physician Resident Progress Note
Chief Complaint: hypercarbic resp distress
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2176-1-5**] 08:40 PM
 NON-INVASIVE VENTILATION - STOP [**2176-1-5**] 09:50 PM
 NON-INVASIVE VENTILATION - START [**2176-1-6**] 12:00 AM
 NON-INVASIVE VENTILATION - STOP [**2176-1-6**] 04:05 AM
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   History obtained from [**Hospital 31**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2176-1-6**] 12:29 AM
   Other medications:
   Changes to medical and family history:
   c/o tearing left eye, left chest wall pain, breathing feels good, (-)
   chest pain, (-) n/v/d/f/c
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-1-6**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**77**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37
C (98.6
   HR: 88 (78 - 97) bpm
   BP: 154/82(99) {115/64(79) - 158/93(103)} mmHg
   RR: 21 (14 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 66.9 kg (admission): 66.9 kg
                  Total In:
                                                                    840 mL
                                                                    240 mL
   PO:
                                                                    840 mL
                                                                    240 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    950 mL
                                                                    300 mL
   Urine:
                                                                    950 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -110 mL
                                                                    -60 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 305 (305 - 357) mL
   PS : 12 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 30%
   SpO2: 100%
   ABG: 7.34/85.[**Numeric Identifier 433**]/67/37/15
   Ve: 5.3 L/min
   PaO2 / FiO2: 223
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: right base), quiet breath sounds
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x 3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   241 K/uL
   8.7 g/dL
   69 mg/dL
   1.0 mg/dL
   37 mEq/L
   5.1 mEq/L
   16 mg/dL
   95 mEq/L
   137 mEq/L
   30.3 %
   7.9 K/uL
        [image002.jpg]
                             [**2176-1-5**]  09:09 AM
                             [**2176-1-5**]  10:00 AM
                             [**2176-1-5**]  11:41 AM
                             [**2176-1-5**]  12:00 PM
                             [**2176-1-5**]  06:00 PM
                             [**2176-1-5**]  06:33 PM
                             [**2176-1-6**]  04:44 AM
   WBC
   7.4
   7.9
   Hct
   29.2
   30.3
   Plt
   226
   241
   Cr
   1.0
   1.1
   1.0
   TCO2
   48
   Glucose
   67
   64
   84
   105
   143
   69
   Other labs: Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 ACIDOSIS, RESPIRATORY
   Chronic
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 CANCER (MALIGNANT NEOPLASM), LUNG
 PROSTATIC HYPERTROPHY, BENIGN (BPH)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   Hypercapneic Respiratory Failure: Pt noted to be somewhat somnelent
   initially on the floor with an elevated pCO2.  Patient is orientated
   after arousal. Given his prior history of COPD likely he has history of
   CO2 retention, which improves with non-invasive BiPAP at night time. Pt
   has no history of OSA, did not receive pain medication prior to this
   episode. Likely related to his RML collapse [**1-23**] recurrent SCC. Pt was
   transferred for possible palliative XRT, Radiation Oncology currently
   not aware will likely need mapping prior to XRT.
   - will continue on non-invasive BiPAP
   - recheck ABG improved
   - will tolerate O2 saturation > 85% given drive to breathe
   - discuss with Rad Onc regarding possible XRT
 CANCER (MALIGNANT NEOPLASM), LUNG
   SCC w/ RLL mass/RLL collapse: Diagnosed via Bronchoscopy at [**Hospital1 **], will need to review OSH records to confirm. Transferred for
   XRT palliative.
   - consult Rad Onc
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   COPD: h.o. severe COPD with several hospitalizations for hypercapneic
   respiratory failure.
   - continue on Albuterol/Iprtropium nebs scheduled
   - continue BiPAP overnight
 PROSTATIC HYPERTROPHY, BENIGN (BPH)
   Continue on Flomax regimen
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2176-1-5**] 07:25 AM
   Prophylaxis:
   DVT:  SC heparin
   Stress ulcer:   pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNI (do not intubate)
   Disposition:  call out to floor
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   On this day I examined Mr [**Known lastname 2536**] and was present for the key portions of
   the services provided. I also have read Dr [**Last Name (STitle) 10445**]
s note above and
   concur with his findings and plan of care.  The patient has very severe
   COPD with what is felt to be baseline severe hypercarbia.  In this
   setting he was found to have a RLL endobronchial cancer at [**Hospital1 3356**] and was transferred to [**Hospital1 1**] for XRT. He came to [**Hospital Unit Name 10**] due to
   his
triggering
 for hypoxemia which responded nicely to BIPAP used
   here yesterday in [**Hospital Unit Name 10**].  This morning he actually seems close or at his
   baseline, though does, not surprisingly, demonstrate asterixis.   As
   he
s not been on RTC bronchodilators and has been on higher than
   necessary FiO2, we will give him Alb/Ipratropium Nebs RTC and titrate
   his nasal O2 to give only Sa02 of 91-93%.  He has not needed BIPAP so
   far today, but we think his using it at night on the [**Hospital1 **] would be
   beneficial in giving his resp muscles a needed rest.  He is being
   called out today, to commence XRT.
   35 min spent in the care of this severely ill patient.
   [**First Name8 (NamePattern2) 548**] [**Last Name (NamePattern1) 549**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 548**] [**Last Name (NamePattern1) 549**], MD
   on:[**2176-1-6**] 15:23 ------

2176-01-07 07:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - signs of CO2 toxicity on exam, pCO2 still in 80s, redirectable mental
   status
   - will cont BiPAP at night
   - standing nebs
   - ? transfer to [**Hospital1 966**] vs dispo to [**Hospital1 69**] for outpt [**Hospital1 357**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2176-1-7**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-1-7**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**77**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.4
   HR: 83 (80 - 97) bpm
   BP: 132/73(89) {118/65(79) - 148/89(103)} mmHg
   RR: 22 (15 - 26) insp/min
   SpO2: 88%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 66.9 kg (admission): 66.9 kg
                  Total In:
                                                                  1,080 mL
                                                                    120 mL
   PO:
                                                                  1,080 mL
                                                                    120 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,450 mL
                                                                      0 mL
   Urine:
                                                                  1,450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -370 mL
                                                                    120 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 299 (299 - 340) mL
   PS : 12 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 30%
   SpO2: 88%
   ABG: 7.35/82.[**Numeric Identifier **]/80.[**Numeric Identifier 500**]/42/15
   Ve: 4.4 L/min
   PaO2 / FiO2: 267
   Physical Examination
   General Appearance: No acute distress, Thin, easily arousable
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: diffuse
   rhonchi, trace crackles : , Diminished: right base), quiet breath
   sounds
   Abdominal: Scaphoid  Soft, Non-tender, Bowel sounds present
   Extremities: notable for
flapping
 on straight arm raise and myoclonus
   on exterion.
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Oriented (to)Person,
   Place, and Time  x 3,
   Labs / Radiology
   262 K/uL
   8.8 g/dL
   88 mg/dL
   1.1 mg/dL
   42 mEq/L
   5.2 mEq/L
   15 mg/dL
   93 mEq/L
   138 mEq/L
   30.5 %
   7.6 K/uL
        [image002.jpg]
                             [**2176-1-5**]  09:09 AM
                             [**2176-1-5**]  10:00 AM
                             [**2176-1-5**]  11:41 AM
                             [**2176-1-5**]  12:00 PM
                             [**2176-1-5**]  06:00 PM
                             [**2176-1-5**]  06:33 PM
                             [**2176-1-6**]  04:44 AM
                             [**2176-1-6**]  09:18 AM
                             [**2176-1-7**]  05:09 AM
   WBC
   7.4
   7.9
   7.6
   Hct
   29.2
   30.3
   30.5
   Plt
   [**Telephone/Fax (3) 10450**]
   Cr
   1.0
   1.1
   1.0
   1.1
   TCO2
   48
   48
   Glucose
   67
   64
   84
   105
   143
   69
   88
   Other labs: PT / PTT / INR:12.8/32.9/1.1, Lactic Acid:0.5 mmol/L,
   Ca++:9.3 mg/dL, Mg++:1.8 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   Hypercapneic Respiratory Failure: Pt noted to be somewhat somnelent
   initially on the floor with an elevated pCO2.  Patient is currently
   orientated after arousal. Given his prior history of COPD likely he has
   history of CO2 retention, which improves with non-invasive BiPAP at
   night time. Pt has no history of OSA, did not receive pain medication
   prior to this episode. Likely related to his RML collapse [**1-23**] recurrent
   SCC. Pt. would benefit from palliative [**Month/Day (2) 357**], would make sense to
   transfer to [**Hospital1 966**] for [**Last Name (LF) 357**], [**First Name3 (LF) 116**] try to facilitate today.
   - will continue on non-invasive BiPAP
   - will tolerate O2 saturation > 85% given drive to breathe
   - Plan to transfer to the [**Hospital1 987**] for continuity of care and [**Hospital1 357**]
   .
 CANCER (MALIGNANT NEOPLASM), LUNG
   SCC w/ RLL mass/RLL collapse: Diagnosed via Bronchoscopy at [**Hospital1 **], will need to review OSH records to confirm. Transferred for
   [**Hospital1 357**] palliative.
   - transfer to [**Hospital1 966**], with CT scan and imaging from [**Hospital1 632**]
   .
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   COPD: h.o. severe COPD with several hospitalizations for hypercapneic
   respiratory failure.
   - continue on Albuterol/Iprtropium/steroids nebs as scheduled
   - continue BiPAP overnight
 PROSTATIC HYPERTROPHY, BENIGN (BPH)
   Continue on Flomax regimen
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2176-1-6**] 08:13 AM
   Prophylaxis:
   DVT: Heparin SC TID
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   On this day I examined Mr [**Known lastname 2536**] and was present for the key portions of
   the services provided.  I have read Dr [**Last Name (STitle) 8988**]
s note and agree with
   his findings and plan of care.  Mr [**Known lastname 2536**] remains stable and reports his
   breathing is at baseline. He is alert and seems comfortable. He
   tolerates BIPAP at night and PC02 is stable to improved at 83.  His Sat
   is approx 88-90% on 2L 02.  As the patient is normally on inhaled
   steroids, we will add budesonide or fluticasone inhaled to his
   Albuterol and Ipratropium nebs q4-6hr.
   Pt is a longstanding patient of  [**Hospital1 966**] where Dr [**Last Name (STitle) 10454**] did his
   LLLobectomy. I
ve been in contact with [**Name (NI) 966**] physicians and  hospitalist
   Dr [**Last Name (STitle) 10455**] there has accepted the patient to the floor there, where he
   should be evaluated for [**Last Name (STitle) 357**] for his new Rt lung cancer.  I believe the
   patient is stable enough for both the transfer and for care on the
   floor, provided he remains on his bronchodilators, BIPAP at night, and
   low flow 02.  I would accept sats of 88-91 as adequate and necessary to
   help prevent C02 retention.
   45 min spent in the care of this severely ill gentleman.
   [**First Name8 (NamePattern2) 548**] [**Last Name (NamePattern1) 549**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 548**] [**Last Name (NamePattern1) 549**], MD
   on:[**2176-1-7**] 16:11 ------